US06885038B2
Preparation of 2,5-bistrimethylsilyl-p-xylene
10.52 g of 2,5-dibromo-p-xylene (40 mmol) was reacted with 2.08 of magnesium turnings (88 mmol) in 40 ml of anhydrous THF for 4 hours with refluxing (initiated by iodine) to give the 2,5-bisbromomagnesium-p-xylene Grignard reagent. To this solution, cooled in an ice bath, was added a solution of 11.2 ml trimethylsilyl chloride (88 mmol) in 40 ml of anhydrous THF. The mixture was refluxed for 24 hours and then cooled in an ice bath. After it was quenched with saturated ammonium chloride aqueous solution, THF was evaporated and the residue was extracted with hexane (30 ml×2). The combined organic layers were washed with water, brine and then dried over anhydrous magnesium sulfate. After the solution was evaporated under a reduced pressure, the residue was recrystallized in ethanol to afford white plate crystals 6.1 g, (yield 61%). M.p. 56.0-57.5° C. MS: 250. 1H NMR (300 MHz, CDCl3, ppm) δ 0.31 (18H, s, —Si(CH3)3), 2.42 (6H, s), 7.24 (2H, s). Anal. Calcd for C14H26Si2: C, 67.12; H, 10.46. Found: C, 66.94; H, 10.23.

reactant | trimethylsilyl chloride | 88 mmol, 11.2 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | THF | 40 ml | C1CCOC1 | C4H8O
product | 2,5-bistrimethylsilyl-p-xylene | 6.1 g, yield 61% | C[Si](C1=C(C=C(C(=C1)C)[Si](C)(C)C)C)(C)C | C14H26Si2
